US07842685B2
Reaction of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-benzaldehyde (1.3 g, 3.4 mmol) and methyl azetidine-3-carboxylate hydrochloride (0.77 g, 5.1 mmol) according to Reference R and the general procedure for reductive amination gave methyl 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)-azetidine-3-carboxylate as a light yellow solid. MS (ESI) m/z: Calculated: 473.2; Observed: 474.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-benzaldehyde | 3.4 mmol, 1.3 g | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
reactant | methyl azetidine-3-carboxylate hydrochloride | 5.1 mmol, 0.77 g | Cl.N1CC(C1)C(=O)OC
product | methyl 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)-azetidine-3-carboxylate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CN1CC(C1)C(=O)OC | C27H24FN3O2S
